US06890948B1
6-Chloro-1-methylindole-3-acetic acid (SR139)
Sodium hydride (0.19 g of 60% suspension in oil) was suspended in dry THF (10 ml). 6-Chloroindole-3-acetic acid (SR058)(100 mg, 0.48 mmol) in THF (5 ml) was added dropwise and the mixture then stirred for 10 minutes. Iodomethane (0.34 g, 2.4 mmol) was then added, and the mixture stirred overnight. Excess sodium hydride was carefully destroyed by dropwise addition of water, and then the mixture was acidified (1M HCl) and extracted with ethyl acetate (3×50 ml), the organic layers dried over MgSO4, and the solvent evaporated to give a brown powder, yield 75 mg, 70%, m.p. 130-132° C. dec.; m/z 225, 223 (M+), 180, 178 (M+-CO2H); δH/ppm 7.46-6.92 (4H, m, Ar—H), 3.77 (3H, s, N—Me), 3.70 (2H, s, ArCH2).

reactant | Sodium hydride | 0.19 g | [H-].[Na+]
reactant | 6-Chloroindole-3-acetic acid | 0.48 mmol, 100 mg | ClC1=CC=C2C(=CNC2=C1)CC(=O)O | C10H8ClNO2
reactant | Iodomethane | 2.4 mmol, 0.34 g | IC | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-Chloro-1-methylindole-3-acetic acid | ClC1=CC=C2C(=CN(C2=C1)C)CC(=O)O | C11H10ClNO2
